US08975254B2
d) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-hydroxyethyl)isoxazole-3-carboxamide
Into a solution containing N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)isoxazole-3-carboxamide (0.04 g, 0.083 mmol) and ethanol (4 ml), hydrogen chloride, 10% in EtOH (0.5 ml, 1.350 mmol) was added. The resulting mixture was stirred for 2 h at RT. The mixture was evaporated, 2 ml of diethyl ether was added and stirred. The precipitated product was filtered and washed with cold heptane. The product was pure enough without further purifications. Yield 85%. 1H-NMR (400 MHz; DMSO-d6): δ 1.16 (d, 3H), 2.92 (t, 2H), 3.69 (t, 2H), 4.29-4.34 (m, 2H), 4.41-4.50 (m, 1H), 6.51-6.53 (m, 1H), 6.94 (d, 1H), 7.82 (d, 1H), 7.92 (dd, 1H), 7.97 (dd, 1H), 8.09 (d, 1H), 8.73 (d, 1H).

reactant | N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)isoxazole-3-carboxamide | 0.083 mmol, 0.04 g | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)CCOC1OCCCC1 | C24H26ClN5O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | EtOH | 1.350 mmol, 0.5 ml | CCO | C2H6O
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-hydroxyethyl)isoxazole-3-carboxamide | Yield 85% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)CCO | C19H18ClN5O3
